US07932259B2
Synthesis of {1-[7-(4-bromo-2,6-dimethylphenyl)-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]piperidin-4-yl}methanol hydrochloride (1-054)
To a suspension of {1-[7-(4-bromo-2,6-dimethylphenyl)-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]piperidin-4-yl}methanol (0.71 g) in water (7 mL) was added concentrated HCl aqueous solution (0.15 mL) under ice-cooling. The mixture was stirred at room temperature for 5 minutes, cooled with an ice-bath again, and stirred for 15 minutes in an ice-cooling bath. The precipitate was collected by filtration, washed with water and dried to give the title compound (0.73 g).

reactant | {1-[7-(4-bromo-2,6-dimethylphenyl)-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]piperidin-4-yl}methanol | 0.71 g | BrC1=CC(=C(C(=C1)C)N1C=C(C2=C1N=C(N=C2N2CCC(CC2)CO)C)C)C | C22H27BrN4O
reactant | HCl | 0.15 mL | Cl | ClH
solvent | water | 7 mL | O | H2O
product | {1-[7-(4-bromo-2,6-dimethylphenyl)-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]piperidin-4-yl}methanol hydrochloride | 0.73 g | Cl.BrC1=CC(=C(C(=C1)C)N1C=C(C2=C1N=C(N=C2N2CCC(CC2)CO)C)C)C | InChI=1S/C22H27BrN4O.ClH/c1-13-9-18(23)10-14(2)20(13)27-11-15(3)19-21(24-16(4)25-22(19)27)26-7-5-17(12-28)6-8-26;/h9-11,17,28H,5-8,12H2,1-4H3;1H
